US06982274B2
1-Bromo-4-fluoro-2-methoxy-benzene
A total of 10 g of 2-bromo-5-fluoro-phenol was dissolved in 105 ml of N,N-dimethylformamide, 10.9 g of potassium carbonate and 4.9 ml of iodomethane were added under ice-cooling, and the mixture was stirred at room temperature for 3 hours. Water was added to the reaction mixture, followed by extracting with diethyl ether. The resulting organic layer was washed with brine, dried over magnesium sulfate and the solvent was evaporated, to give 9.75 g of the title compound as a yellow oil.

reactant | 2-bromo-5-fluoro-phenol | 10 g | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
reactant | potassium carbonate | 10.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 4.9 ml | IC | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 105 ml | CN(C=O)C | C3H7NO
product | 1-Bromo-4-fluoro-2-methoxy-benzene | 9.75 g | BrC1=C(C=C(C=C1)F)OC | C7H6BrFO
